US06660744B1
Sodium hydride (60%, 0.138 g, 3.45 mmol) was added to a suspension of 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.750 g, 2.87 mmol) in N,N-dimethylformamide (9 mL), and the mixture was stirred at ambient temperature for 1 hour until a homogeneous solution was obtained. Ethyl bromoacetate (0.447 mL, 4.03 mmol) was added, and the mixture was stirred at ambient temperature under an atmosphere of nitrogen for 14 hours. The solvent was removed under reduced pressure and the resulting solid was triturated sequentially with water (25 mL) and then ether/petroleum ether (4:1, 50 mL) to yield ethyl 2-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)acetate (0.791 g, 2.28 mmol) as a brown solid: 1H NMR (DMSO-d6, 400 MHz) δ 8.21 (s, 1H), 5.17 (s, 2H), 4.15 (qt, 2H), 1.20 (t, 3H); RP-HPLC (25 to 100% CH3CN in 0.1 M aqueous ammonium acetate over 10 min at 1 mL/min using a Hypersil HS C18, 250×4.6 mm column) Rt 6.87 min.

reactant | Sodium hydride | 3.45 mmol, 0.138 g | [H-].[Na+]
reactant | 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 2.87 mmol, 0.750 g | IC1=NNC2=NC=NC(=C21)N | C5H4IN5
reactant | Ethyl bromoacetate | 4.03 mmol, 0.447 mL | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
product | ethyl 2-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)acetate | 2.28 mmol, 0.791 g | NC1=C2C(=NC=N1)N(N=C2I)CC(=O)OCC | C9H10IN5O2
